US08134004B2
Step CA6B: 6-bromoquinolin-2-yl-2,2,2-trifluoro-1-methylethyl methanesulfonate
To a solution of 6-Bromo-quinolin-2-yl-1,1,1-trifluoropropan-2-ol (5.06 g, 15.8 mmol) in THF (50 ml) was added sodium hydride (1.26 g, 31.6 mmol) portionwise at 0° C. and the mixture was stirred at room temperature for 2 hour. A solution of methanesulfonyl chloride (3.62 g, 31.6 mmol) in THF (10 ml) was added there at 0°. Then the reaction mixture was stirred at room temperature for 2 hours. The mixture was quenched with saturated sodium bicarbonate aqueous solution, and the product was extracted with ethyl acetate which was dried over sodium sulfate. Then, filtration, evaporation, purification through silica gel column chromatography eluting with hexane/ethyl acetate (15:1 to 5:1) furnished the title compound (6.29 g, 84% yield) as a white solid. 1H NMR (300 MHz, CDCl3) ppm 2.45 (3H, s), 3.24 (3H, s), 7.81-7.86 (2H, m), 7.96-8.05 (2H, m), 8.17 (1H, d, J=8.8 Hz). MS (ESI): m/z 397, 399 (M+H)+.

reactant | 6-Bromo-quinolin-2-yl-1,1,1-trifluoropropan-2-ol | 15.8 mmol, 5.06 g | BrC=1C=C2C=CC(=NC2=CC1)C(C(F)(F)F)(C)O | C12H9BrF3NO
reactant | sodium hydride | 31.6 mmol, 1.26 g | [H-].[Na+]
reactant | methanesulfonyl chloride | 31.6 mmol, 3.62 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 6-bromoquinolin-2-yl-2,2,2-trifluoro-1-methylethyl methanesulfonate | 6.29 g, 84% yield | CS(=O)(=O)OC(C(F)(F)F)(C)C1=NC2=CC=C(C=C2C=C1)Br | C13H11BrF3NO3S
